US05011931
A solution of 5'-fluoro-N-methyl-2'-methylsulphinylacetylformanilide (0.77 g) in 2-methoxyethanol (25 ml) was heated to reflux over 20 minutes. After heating under reflux at 128° for 45 minutes the mixture was evaporated in vacuo to give 7-fluoro-1-methyl-3-methylsulphinyl-4-quinolone, m.p.225.5°-227° (0.69 g).

reactant | 5'-fluoro-N-methyl-2'-methylsulphinylacetylformanilide | 0.77 g | FC=1C=CC(=C(N(C=O)C)C1)C(CS(=O)C)=O | C11H12FNO3S
solvent | 2-methoxyethanol | 25 ml | COCCO | C3H8O2
product | 7-fluoro-1-methyl-3-methylsulphinyl-4-quinolone | FC1=CC=C2C(C(=CN(C2=C1)C)S(=O)C)=O | C11H10FNO2S
